US08076336B2
2-Bromo-1-[3-tert-butyl-5-(1-hydroxy-1-methylethyl)phenyl]ethanone
1-[3-tert-Butyl-5-(1-hydroxy-1-methylethyl)phenyl]ethanone (O2.100; 50 mg) was initially charged in THF (5 ml) while stirring at RT, and admixed with phenyltrimethylammonium tribromide (80 mg). After stirring at RT for 3 h, the mixture was left to stand overnight and admixed with water and saturated sodium hydrogencarbonate solution. Then it was extracted three times with EA, and the combined EA phases were dried over sodium sulfate, filtered and concentrated. The residue was purified using silica gel (10 g cartridge, n-heptane/EA gradient). 42 mg of the title compound were obtained. LC-MS rt: 1.10 min [M+H—H2O]+: 295.1 (met. b)

reactant | 1-[3-tert-Butyl-5-(1-hydroxy-1-methylethyl)phenyl]ethanone | 50 mg | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)O)C(C)=O | C15H22O2
reactant | phenyltrimethylammonium tribromide | 80 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Bromo-1-[3-tert-butyl-5-(1-hydroxy-1-methylethyl)phenyl]ethanone | 42 mg | BrCC(=O)C1=CC(=CC(=C1)C(C)(C)O)C(C)(C)C | C15H21BrO2
